US09085583B2
A mixture of methyl 1-benzyl-5-methyl-1H-pyrazole-4-carboxylate (200 mg, 0.86 mmol), lithium hydroxide monohydrate (111 mg, 2.62 mmol), tetrahydrofuran (10 mL), methanol (2 mL) and water (2 mL) was stirred at 20° C. for 4 hours. The mixture was acidified to pH=1 with concentrated hydrochloric acid and then extracted with ethyl acetate (15 mL×3). The combined organic phase was dried by sodium sulfate, and then filtered. The filtrate was concentrated in vacuo and separated by chiral HPLC (condition: column AD-H (20 mm*250 mm*5 μm), hexane:ethanol (0.2% DEA)=50:50, flow rate: 13 mL/min) to give 1-benzyl-5-methyl-1H-pyrazole-4-carboxylic acid (75 mg, 40%). LRMS (M+H+) m/z: calcd. 216.09. found 216.

reactant | methyl 1-benzyl-5-methyl-1H-pyrazole-4-carboxylate | 0.86 mmol, 200 mg | C(C1=CC=CC=C1)N1N=CC(=C1C)C(=O)OC | C13H14N2O2
reactant | lithium hydroxide monohydrate | 2.62 mmol, 111 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 2 mL | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 1-benzyl-5-methyl-1H-pyrazole-4-carboxylic acid | 75 mg, 40% | C(C1=CC=CC=C1)N1N=CC(=C1C)C(=O)O | C12H12N2O2
